US06153611
1-[4-(1,3-Benzodioxol-5-yl)-3-cyclohexen-1-yl]-4-[(2-chlorophenyl)methyl]piperazine
The title compound was prepared from 2-chlorobenzyl-chloride (0.16 g, 1 mmole), 1-[4-(1,3-benzodioxol-5-yl)-3-cyclohexen-1-yl]piperazine (0.29 g, 1 mmole), and excess powdered K2CO3 as described in example 45 to give the product (78%, mp: 115-116° C.). Calc'd for C24H27ClN2O2 : C, 70.14%; H, 6.62%; N, 6.82%. Found: C, 70.25; H, 6.69%; N, 6.83%.

reactant | 2-chlorobenzyl-chloride | 1 mmole, 0.16 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | 1-[4-(1,3-benzodioxol-5-yl)-3-cyclohexen-1-yl]piperazine | 1 mmole, 0.29 g | O1COC2=C1C=CC(=C2)C2=CCC(CC2)N2CCNCC2 | C17H22N2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 1-[4-(1,3-Benzodioxol-5-yl)-3-cyclohexen-1-yl]-4-[(2-chlorophenyl)methyl]piperazine | O1COC2=C1C=CC(=C2)C2=CCC(CC2)N2CCN(CC2)CC2=C(C=CC=C2)Cl | C24H27ClN2O2
